data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:2]1([P:31]([c:3]2[cH:14][cH:20][c:35]([N:9]([CH3:27])[CH3:28])[cH:21][cH:15]2)[c:4]2[cH:16][cH:22][c:36]([N:10]([CH3:29])[CH3:30])[cH:23][cH:17]2)[cH:13][cH:19][c:34]([N:8]([CH3:25])[CH3:26])[cH:24][cH:18]1.[cH:1]1[cH:5][cH:32][c:12]([N+:7](=[CH2:11])[CH3:37])[cH:33][cH:6]1>>[cH:1]1[cH:5][cH:32][c:12]([N:7]([CH2:11][P+:31]([c:2]2[cH:13][cH:19][c:34]([N:8]([CH3:25])[CH3:26])[cH:24][cH:18]2)([c:3]2[cH:14][cH:20][c:35]([N:9]([CH3:27])[CH3:28])[cH:21][cH:15]2)[c:4]2[cH:16][cH:22][c:36]([N:10]([CH3:29])[CH3:30])[cH:23][cH:17]2)[CH3:37])[cH:33][cH:6]1", "epd": [["LP-/Sigma+", [31], [31, 11]], ["Pi-/LP+", [11, 7], [7]]]}
{"reaction_name": "Balz–Schiemann fluorination", "rsmi": "[F:1][B-:12]([F:2])([F:3])[F:4].[c:5]1([N+:13]#[N:11])[cH:7][cH:9][cH:6][cH:10][cH:8]1>>[F:1][c:5]1[cH:7][cH:9][cH:6][cH:10][cH:8]1.[F:2][B:12]([F:3])[F:4].[N:11]#[N:13]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [5, 13], [13]], ["Sigma-/LP+", [1, 12], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:2]1=[C:3]([CH3:4])[O:12][CH2:8][CH2:11]1.[cH:1]1[cH:5][cH:13][c:10]([N+:7](=[CH2:9])[CH3:15])[cH:14][cH:6]1>>[cH:1]1[cH:5][cH:13][c:10]([N:7]([CH2:9][N:2]2[C:3]([CH3:4])=[O+:12][CH2:8][CH2:11]2)[CH3:15])[cH:14][cH:6]1", "epd": [["LP-/Pi+", [12], [3, 12]], ["Pi-/Sigma+", [2, 3], [2, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Ketal deprotection", "rsmi": "[CH2:3]1[CH2:4][O:9][C:5]([CH3:6])([CH3:7])[O:8]1.[H+:2].[O:1]([H:10])[H:11]>>[H+:11].[H:2][O:9][CH2:4][CH2:3][O:8][H:10].[O:1]=[C:5]([CH3:6])[CH3:7]", "epd": [["Sigma-/LP+", [5, 9], [9]], ["LP-/Sigma+", [9], [2, 9]], ["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [5, 8], [8]], ["LP-/Sigma+", [8], [8, 10]], ["Sigma-/LP+", [1, 10], [1]], ["LP-/Pi+", [1], [1, 5]], ["Sigma-/LP+", [1, 11], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH2:4]=[N:13][N:6]1[CH2:18][CH2:8][CH2:7][CH2:19]1.[cH:1]1[cH:2][cH:15][cH:5][c:9]2[c:3]1[N+:21]([CH3:11])=[CH:14][C:12]2=[CH:10][c:20]1[cH:16][cH:22][cH:24][cH:23][cH:17]1>>[cH:1]1[cH:2][cH:15][cH:5][c:9]2[c:3]1[n:21]([CH3:11])[cH:14][c:12]2[CH:10]([CH2:4][N:13]=[N+:6]1[CH2:18][CH2:8][CH2:7][CH2:19]1)[c:20]1[cH:16][cH:22][cH:24][cH:23][cH:17]1", "epd": [["LP-/Pi+", [6], [13, 6]], ["Pi-/Sigma+", [4, 13], [4, 10]], ["Pi-/Pi+", [10, 12], [12, 14]], ["Pi-/LP+", [14, 21], [21]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[C:1]1(=[O:5])[CH:16]=[CH:9][C:13](=[N+:18]([O-:11])[O-:12])[CH:10]=[CH:17]1.[cH:2]1[cH:3][cH:14][c:8]([N+:6](=[CH2:7])[CH3:19])[cH:15][cH:4]1>>[c:1]1([O:5][CH2:7][N:6]([c:8]2[cH:14][cH:3][cH:2][cH:4][cH:15]2)[CH3:19])[cH:16][cH:9][c:13]([N+:18](=[O:11])[O-:12])[cH:10][cH:17]1", "epd": [["LP-/Pi+", [11], [18, 11]], ["Pi-/Pi+", [13, 18], [9, 13]], ["Pi-/Pi+", [16, 9], [1, 16]], ["Pi-/Sigma+", [5, 1], [5, 7]], ["Pi-/LP+", [7, 6], [6]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[CH:1]1=[CH:2][c:3]2[cH:10][cH:9][cH:23][cH:4][c:11]2[CH:27]1[Na:12].[cH:5]1[c:13]([CH+:26][c:14]2[cH:6][c:17]([F:21])[cH:25][c:18]([F:22])[cH:7]2)[cH:8][c:15]([F:19])[cH:24][c:16]1[F:20]>>[CH:1]1=[CH:2][c:3]2[cH:10][cH:9][cH:23][cH:4][c:11]2[CH:27]1[CH:26]([c:13]1[cH:5][c:16]([F:20])[cH:24][c:15]([F:19])[cH:8]1)[c:14]1[cH:6][c:17]([F:21])[cH:25][c:18]([F:22])[cH:7]1.[Na+:12]", "epd": [["Sigma-/Sigma+", [27, 12], [27, 26]]]}
{"reaction_name": "Thiol addition to carbonyls", "rsmi": "[H:3][S:4][CH3:6].[O:1]=[CH:5][CH3:2]>>[O:1]([H:3])[CH:5]([CH3:2])[S:4][CH3:6]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [1, 5], [1]], ["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 4], [4]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:4][c:11]1[cH:41][cH:20][c:15]([CH:37]=[C:28]2[CH:38]=[C:12]([Br:24])[C:14](=[O:23])[C:13]([Br:25])=[CH:39]2)[cH:21][cH:42]1.[N:1]1([c:5]2[c:33]([CH3:7])[cH:29][c:18]([CH3:16])[cH:32][c:36]2[CH3:10])[CH:27]=[CH:26][N:2]([c:6]2[c:34]([CH3:8])[cH:30][c:19]([CH3:17])[cH:31][c:35]2[CH3:9])[C:40]1=[CH2:22]>>[n+:1]1(-[c:5]2[c:33]([CH3:7])[cH:29][c:18]([CH3:16])[cH:32][c:36]2[CH3:10])[cH:27][cH:26][n:2](-[c:6]2[c:34]([CH3:8])[cH:30][c:19]([CH3:17])[cH:31][c:35]2[CH3:9])[c:40]1[CH2:22][CH:37]([c:15]1[cH:20][cH:41][c:11]([O:4][CH3:3])[cH:42][cH:21]1)[c:28]1[cH:38][c:12]([Br:24])[c:14]([O-:23])[c:13]([Br:25])[cH:39]1", "epd": [["LP-/Pi+", [1], [40, 1]], ["Pi-/Sigma+", [22, 40], [22, 37]], ["Pi-/Pi+", [37, 28], [28, 38]], ["Pi-/Pi+", [38, 12], [12, 14]], ["Pi-/LP+", [14, 23], [23]]]}
